US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1-methyl-1H-imidazole-2-carboxamide
To a solution of N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.46 mmol) in N,N-dimethylformamide (3.0 mL) were added 1-methyl-1H-imidazole-2-carboxylic acid (117 mg, 0.93 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (267 mg, 1.39 mmol) and 1-hydroxybenzotriazole (188 mg, 1.39 mmol), and the mixture was stirred at room temperature for 16 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the obtained residue was washed with ethyl acetate/hexane to give the title compound (66 mg, 32%) as a white powder.

reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.46 mmol, 150 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | 1-methyl-1H-imidazole-2-carboxylic acid | 0.93 mmol, 117 mg | CN1C(=NC=C1)C(=O)O | C5H6N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.39 mmol, 267 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.39 mmol, 188 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1-methyl-1H-imidazole-2-carboxamide | 66 mg, 32% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C=2N(C=CN2)C)C)C1 | C22H21N7O3
